US09353107B2
Step-i: 1-(4-bromo-2-nitrophenyl)piperazine hydrochloride
Using similar reaction conditions as described in (step i of Intermediate-2), tert-butyl piperazine-1-carboxylate (1.5 g, 6.81 mmol) was reacted with 4-bromo-1-fluoro-2-nitrobenzene (1.28 g, 6.81 mmol) in DMF (25 ml) and potassium carbonate (2.35 g, 17.02 mmol) to afford crude product. Using similar reaction conditions as described in Step-ii of example-7, above crude was deprotected in HCl in ether/methanol (10/10 ml). This afforded 2.0 g (99% yield).

reactant | tert-butyl piperazine-1-carboxylate | 6.81 mmol, 1.5 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 4-bromo-1-fluoro-2-nitrobenzene | 6.81 mmol, 1.28 g | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | potassium carbonate | 17.02 mmol, 2.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | ether methanol | 10 ml | CCOCC.CO
product | 1-(4-bromo-2-nitrophenyl)piperazine hydrochloride | 99% yield | Cl.BrC1=CC(=C(C=C1)N1CCNCC1)[N+](=O)[O-] | InChI=1S/C10H12BrN3O2.ClH/c11-8-1-2-9(10(7-8)14(15)16)13-5-3-12-4-6-13;/h1-2,7,12H,3-6H2;1H
